US07348337B2
To a solution of AlCl3 (0.321 g, 2.411 mmol) in CH2Cl2 (0.8 mL) and MeNO2 (0.2 mL) was added 4-methoxy-7-(5-methyl-1,3,4-triazol-2-yl)-6-azaindole (0.0435 g, 0.190 mmol) as a solid. After dissolution of the starting material (ca. 5 min), ClCOCO2Me (0.070 mL, 0.756 mmol) was added and the mixture was allowed to stir for 5 h. The mixture was then cooled at 0° C., quenched by the slow addition of 1 M aqueous NH4OAc and extracted with EtOAc (×3). The combined organic layers were washed (H2O, brine), dried (Na2SO4) and evaporated to give 4-methoxy-7-(5-methyl-1,3,4-triazol-2-yl)-6-azaindol-3-yl-oxoacetic acid methyl ester (0.0347 g, 60%: LCMS: m/e 316 (M+H)+. This material was dissolved in MeOH (2 mL) and treated with 2.5 M NaOH (0.2 mL, 0.5 mmol). The mixture was allowed to stir for 5 h, at which point the solvent was removed and the residue was diluted with H2O (2 mL). This mixture was acidified to pH 1 with 6 M HCl and the solution was lyophilized to give the title compound (0.062 g), which contained a nominal amount of inorganic salts. This material was used as such in the following step:

reactant | AlCl3 | 2.411 mmol, 0.321 g | [Al+3].[Cl-].[Cl-].[Cl-]
reactant | 4-methoxy-7-(5-methyl-1,3,4-triazol-2-yl)-6-azaindole | 0.190 mmol, 0.0435 g | COC1=C2C=CNC2=C(N=C1)C=1NC(=NN1)C | C11H11N5O
reactant | ClCOCO2Me | 0.756 mmol, 0.070 mL | ClC(=O)C(=O)OC | C3H3ClO3
solvent | CH2Cl2 | 0.8 mL | C(Cl)Cl | CH2Cl2
solvent | MeNO2 | 0.2 mL | C[N+](=O)[O-] | CH3NO2
product | 4-methoxy-7-(5-methyl-1,3,4-triazol-2-yl)-6-azaindol-3-yl-oxoacetic acid methyl ester | COC(C(=O)C1=CNC2=C(N=CC(=C12)OC)C=1NC(=NN1)C)=O | C14H13N5O4
